US05202335
To a solution of potassium t-butoxide (8.5 g) in t-butanol (100 ml) was added a mixture of 2-methylbenzaldehyde (6.0 g) and diethyl succinate (12.0 g) and the mixture was refluxed for 3 hours. After the solvent was evaporated under reduced pressure, 10% sodium hydroxide solution (100 ml) was added to the resulting residue and the mixture was refluxed for 5 hours. The reaction mixture was acidified with hydrochloric acid under ice-cooling and the precipitated crystals were collected by filtration to give 3.6 g of (E)-2-methylbenzylidenesuccinic acid.

reactant | potassium t-butoxide | 8.5 g | CC(C)([O-])C.[K+]
reactant | 2-methylbenzaldehyde | 6.0 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | diethyl succinate | 12.0 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
solvent | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | (E)-2-methylbenzylidenesuccinic acid | 3.6 g | CC1=C(\C=C(\C(=O)O)/CC(=O)O)C=CC=C1 | C12H12O4
